US06858370B2
Potassium perfluorobutanesulfonate (60 g) was dissolved in a mixed solvent comprising 200 ml of water and 200 ml of methanol, and a solution obtained by dissolving 49.5 g of phenacyltetrahydrothiophenium bromide in 300 ml of water was added to the above solution. The aqueous solution was extracted twice with 200 ml of chloroform, the organic phase was washed with water and concentrated, thereby a crude product was obtained. Distilled water (300 ml) was added to the above-obtained product, followed by heating at 100° C. for 30 minutes and then cooling, thereby a solid product was precipitated. The precipitate was filtered and re-slurried with diisopropyl ether, thereby 77 g of phenacyltetrahydrothiophenium perfluorobutanesulfonate was obtained.

reactant | Potassium perfluorobutanesulfonate | 60 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | phenacyltetrahydrothiophenium bromide | 49.5 g | [Br-].C(C(=O)C1=CC=CC=C1)[S+]1CCCC1
solvent | water | 200 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | phenacyltetrahydrothiophenium perfluorobutanesulfonate | 77 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(C(=O)C1=CC=CC=C1)[S+]1CCCC1 | InChI=1S/C12H15OS.C4HF9O3S/c13-12(10-14-8-4-5-9-14)11-6-2-1-3-7-11;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h1-3,6-7H,4-5,8-10H2;(H,14,15,16)/q+1;/p-1
